US09216999B2
1-Benzyl-N-methoxy-N-methylpiperidine-3-carboxamide
1-Benzylpiperidine-3-carboxylic acid (318 mg, 1.45 mmol) and N,O-dimethylhydroxylamine hydrochloride (287 mg, 2.94 mmol) in tetrahydrofuran (5 mL) was stirred with triethylamine (283 μL, 2.03 mmol), 1-hydroxybenzotriazole (101 mg, 0.747 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (560 mg, 2.92 mmol) at room temperature for one day. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residues was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 (v/v)) to give the title compound as a colorless oil (272 mg, yield 71%).

reactant | 1-Benzylpiperidine-3-carboxylic acid | 1.45 mmol, 318 mg | C(C1=CC=CC=C1)N1CC(CCC1)C(=O)O | C13H17NO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.94 mmol, 287 mg | Cl.CNOC
reactant | triethylamine | 2.03 mmol, 283 μL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 0.747 mmol, 101 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.92 mmol, 560 mg | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-Benzyl-N-methoxy-N-methylpiperidine-3-carboxamide | 272 mg, yield 71% | C(C1=CC=CC=C1)N1CC(CCC1)C(=O)N(C)OC | C15H22N2O2
